US05106871
Then, 21.5 g of 1-(2-hydroxy-4-methoxy-3-isopentylphenyl)-3-(4-methoxyphenyl)-1-propanone was dissolved in 150 ml of anhydrous acetone, and 41.6 g of anhydrous potassium carbonate was added to the solution and the mixture was stirred for 30 minutes. Then, 18.4 g of methyl α-bromoacetate was added to the reaction mixture, and the mixture was stirred at room temperature for 5 days to effect reaction After the reaction, the reaction mixture was extracted with diethyl ether and the solvent was removed from the extract, and the obtained residue was subjected to the silica gel chromatography (eluting solvent: n-hexane/ethyl acetate =8/1) to obtain 20.9 g (yield=80.9%) of 1-(4-methoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl -3-(4-methoxyphenyl)-1-propanone in the form of a colorless oil.

reactant | 1-(2-hydroxy-4-methoxy-3-isopentylphenyl)-3-(4-methoxyphenyl)-1-propanone | 21.5 g | OC1=C(C=CC(=C1CCC(C)C)OC)C(CCC1=CC=C(C=C1)OC)=O | C22H28O4
reactant | potassium carbonate | 41.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl α-bromoacetate | 18.4 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-methoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl -3-(4-methoxyphenyl)-1-propanone | yield=80.9% | COC1=C(C(=C(C=C1)C(CCC1=CC=C(C=C1)OC)=O)OCC(=O)OC)CCC(C)C | C25H32O6
